US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3,5-dimethylaniline
To a solution of 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3,5-dimethylnitrobenzene (2.24 g) in a mixture of ethanol (30 ml) and tetrahydrofuran (10 ml) was added palladium on carbon (0.20 g) and the mixture was stirred under a hydrogen atmosphere at room temperature for 1 hour. The reaction mixture was filtered and the filtrate concentrated in vacuo. The residue was purified by chromatography on a silica gel column using hexane/ethyl acetate=2/1 as an eluant to give the desired compound (1.94 g, yield 95%) as a pale rose solid.

reactant | 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3,5-dimethylnitrobenzene | 2.24 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C | C18H26N2O5
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.20 g | [Pd] | Pd
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3,5-dimethylaniline | 1.94 g, yield 95% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(N)C=C1C)C | C18H28N2O3
